US07041668B2
A mixture of 3-benzyl-2-chloro-3H-benzoimidazol-5-ol (250 mg) and 4-amino veratrole (296 mg) in N-methylpyrrolidinone (3 ml) was heated at 150° C. in a sealed tube for 4 hours then allowed to cool. The reaction mixture was then poured into water (30 ml) and extracted three times with ethyl acetate (30 ml). The combined extracts were dried over magnesium sulfate and then evaporated. The residue was subjected to flash chromatography on silica eluting with a mixture of dichloromethane and methanol (95:5, v/v) to give 3-benzyl-2-(3,4-dimethoxy-phenylamino)-3H-benzoimidazol-5-ol (141 mg) as a yellow solid. Mass spectrum: 376 [M+H]+ retention time: 3.44 minutes.

reactant | 3-benzyl-2-chloro-3H-benzoimidazol-5-ol | 250 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)O)Cl | C14H11ClN2O
reactant | 4-amino veratrole | 296 mg | NC=1C=C(C(=CC1)OC)OC | C8H11NO2
reactant | water | 30 ml | O | H2O
solvent | N-methylpyrrolidinone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 3-benzyl-2-(3,4-dimethoxy-phenylamino)-3H-benzoimidazol-5-ol | 141 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)O)NC2=CC(=C(C=C2)OC)OC | C22H21N3O3
